US07851634B2
a) 5-Bromo-3-(3-methoxy-propoxy)-1H-pyridin-2-one
To a 1.4M NaOH solution at 0° C. are added 0.9 mol 5-bromo-3-hydroxy-1H-pyridin-2-one [34206-49-0]. The mixture is allowed to stir for 15 minutes and 0.9 mmol 1-iodo-3-methoxypropane [61542-10-7] are added carefully at 0° C. The mixture is stirred at room temperature for 3 hours, then neutralized with acetic acid to pH 7. The mixture is extracted with chloroform (10×) and the organic layer is dried over sodium sulphate, filtered and concentrated. The title compound is obtained from the residue by means of flash chromatography (SiO2 60 F) and identified based on its Rf value.

reactant | NaOH | 1.4M | [OH-].[Na+]
reactant | 5-bromo-3-hydroxy-1H-pyridin-2-one | 0.9 mol | BrC=1C=C(C(NC1)=O)O | C5H4BrNO2
reactant | 1-iodo-3-methoxypropane | 0.9 mmol | ICCCOC | C4H9IO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Bromo-3-(3-methoxy-propoxy)-1H-pyridin-2-one | BrC=1C=C(C(NC1)=O)OCCCOC | C9H12BrNO3
